US08685970B2
A mixture of 2-chloro-N-(pyridin-3-ylmethyl)quinolin-8-amine (160 mg, 0.59 mmol), 3-pyridylboronic acid (111 mg, 0.9 mmol), PdCl2(dppf).CH2Cl2 complex (53 mg, 0.06 mmol), K2CO3 (248 mg, 1.8 mmol) and dioxane/H2O (5:1, 6 ml) was stirred at 80° C. for 3 h under N2. The reaction was filtered, concentrated and purified by prepTLC (4:1 pentane/ethyl acetate) to give 2-(pyridin-3-yl)-N-(pyridin-3-ylmethyl)quinolin-8-amine as a yellow solid (139 mg, yield 75%). MS (ESI) calcd for C20H16N4 (m/z): 312.14. found: 313 [M+1].

reactant | 2-chloro-N-(pyridin-3-ylmethyl)quinolin-8-amine | 0.59 mmol, 160 mg | ClC1=NC2=C(C=CC=C2C=C1)NCC=1C=NC=CC1 | C15H12ClN3
reactant | 3-pyridylboronic acid | 0.9 mmol, 111 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 1.8 mmol, 248 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane H2O | 6 ml | O1CCOCC1.O
product | 2-(pyridin-3-yl)-N-(pyridin-3-ylmethyl)quinolin-8-amine | 139 mg, yield 75% | N1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=C1)NCC=1C=NC=CC1 | C20H16N4
